US06417212B1
B. (2-Phenethyl-4-hydroxyphenoxy)acetic acid ethyl ester
A solution of (4-benzyloxy-2-phenethylphenoxy)acetic acid ethyl ester (1.77 mmol) in ethanol (15 mL) was treated with 5% Pd/C (70 mg) and hydrogen (60 psi) at ambient temperature for 18 h. The mixture was filtered and concentrated in vacuo to give the desired product.

reactant | (4-benzyloxy-2-phenethylphenoxy)acetic acid ethyl ester | 1.77 mmol | C(C)OC(COC1=C(C=C(C=C1)OCC1=CC=CC=C1)CCC1=CC=CC=C1)=O | C25H26O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | Pd/C | 70 mg | [Pd] | Pd
product | (2-Phenethyl-4-hydroxyphenoxy)acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)O)CCC1=CC=CC=C1)=O | C18H20O4
